US06172085B2
In an autoclave, a suspension of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (1.4 g) and 4-(2-keto-1-benzimidazolinyl)piperidine (2.3 g) in xylene (20 mL) was stirred under nitrogen gas at 180° C. for 15 hours. The reaction mixture was then cooled, filtered, and washed with diethyl ether. The filtrate was washed with water and extracted with 1N-hydrochloric acid. The aqueous layer was neutralized with saturated aqueous NaHCO3 and extracted with 2 portions of ethyl acetate. The pooled organic layer was washed with saturated aqueous NaCl, dried over anhydrous sodium sulfate (Na2SO4) and silica gel (eluted with ethyl acetate), and concentrated under reduced pressure. The residue was crystallized from ethanol to give 1.2 g of 2-[[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine. Yield 55%. This product was dissolved in tetrahydrofuran with heating and after the solution was diluted with methanol, a stoichiometric excess of 10% HCl/methanol was added. The resulting solution was concentrated under reduced pressure and cyrstallized from methanol/diethyl ether to provide the title compound.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 1.4 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 2.3 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 1.2 g, Yield 55% | O=C1NC2=C(N1C1CCN(CC1)CC1(OC3=C(C1)C(=C(C(=C3C)C)N)C)C)C=CC=C2 | C25H32N4O2
